US07842660B2
4-Heptyn-2-yl salicylate (24.6 g; 0.1 mol) dissolved in 30 ml abs. ethanol are stirred over palladium on bariumsulfate (0.4 g; 0.02 mol) and under hydrogen for 3 hours. Filtration over Celite and evaporation of the ethanol under reduced pressure gives 26.2 g crude product which is distilled over a Vigreux column giving 23.5 g (96%) of a slightly yellowish oil at 98° C./0.1 Torr (0.133 mbar). Redistillation under the same conditions gives 21.6 g (88%) of colorless (Z)-4-hepten-2-yl salicylate.

reactant | 4-Heptyn-2-yl salicylate | 0.1 mol, 24.6 g | C(C=1C(O)=CC=CC1)(=O)OC(C)CC#CCC | C14H16O3
catalyst | palladium on bariumsulfate | 0.02 mol, 0.4 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | (Z)-4-hepten-2-yl salicylate | 21.6 g, 88% | C(C=1C(O)=CC=CC1)(=O)OC(C)C\C=C/CC | C14H18O3
